US09238639B2
Methyl(6-((2,4-dichlorobenzyl)oxy)-5-methyl-1-benzofuran-3-yl)acetate
To the mixture of methyl(5-bromo-6-((2,4-dichlorobenzyl)oxy)-1-benzofuran-3-yl)acetate (166 mg), aqueous 2M Na2CO3 (0.561 mL) and methylboronic acid (44.7 mg) in DME (3.7 mL) was added Pd(Ph3P)4 (43.2 mg). The mixture was stirred at 80° C. for 7 h. To the mixture was added methylboronic acid (44.8 mg) again. The mixture was stirred at 80° C. under nitrogen atmosphere over weekend. The mixture was diluted with water and extracted with EtOAc. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (45.0 mg).

reactant | methyl(5-bromo-6-((2,4-dichlorobenzyl)oxy)-1-benzofuran-3-yl)acetate | 166 mg | COC(CC1=COC2=C1C=C(C(=C2)OCC2=C(C=C(C=C2)Cl)Cl)Br)=O | C18H13BrCl2O4
reactant | Na2CO3 | 2M, 0.561 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | methylboronic acid | 44.7 mg | CB(O)O | CH5BO2
reactant | methylboronic acid | 44.8 mg | CB(O)O | CH5BO2
solvent | DME | 3.7 mL | COCCOC | C4H10O2
solvent | water | O | H2O
catalyst | Pd(Ph3P)4 | 43.2 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl(6-((2,4-dichlorobenzyl)oxy)-5-methyl-1-benzofuran-3-yl)acetate | 45.0 mg | COC(CC1=COC2=C1C=C(C(=C2)OCC2=C(C=C(C=C2)Cl)Cl)C)=O | C19H16Cl2O4
